US09447081B2
The Preparation of Intermediate 4,5-dichloro-6-methylpyrimidine
50 ml of POCl3 was added dropwise to a solution of 14.5 g (0.1 mol) of 4-hydroxyl-5-chloro-6-methylpyrimidine in 50 mL of toluene, the mixture was refluxed for 5-7 h after addition. After the reaction was over by Thin-Layer Chromatography monitoring, the reaction mixture was concentrated under reduced pressure to remove toluene and extra POCl3, and then poured into ice water. The water phase was extracted with ethyl acetate (3×50 ml), the organic phases were emerged, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified through silica column to give 14.43 g as yellow liquid with yield of 88.5%.

reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-hydroxyl-5-chloro-6-methylpyrimidine | 0.1 mol, 14.5 g | OC1=NC=NC(=C1Cl)C | C5H5ClN2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-dichloro-6-methylpyrimidine | ClC1=NC=NC(=C1Cl)C | C5H4Cl2N2
